US04409217
7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 3.7 g), methanol (40 ml) and conc. hydrochloric acid (2.1 ml) were treated in a similar manner to that of Example 5 to give 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer, 2.8 g).

reactant | 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid | 3.7 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H23N5O9S2
reactant | hydrochloric acid | 2.1 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid | 2.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)C=1N=C(SC1)N | C19H23N5O8S2
